US07618960B2
Synthesis of (Z)-4-[(S)-chroman-4-yl]-2-[1-[3-fluoro-4-(4-methyl-1H-imidazol-1-yl)phenyl]methylidene]-6,6-dimethylmorpholin-3-one
25.4 mg of the title compound was obtained from 4-[(S)-chroman-4-yl]-2-hydroxy-6,6-dimethylmorpholin-3-one, triphenylphosphonium bromide, and 3-fluoro-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde in the same manner as in Example 12.

reactant | 4-[(S)-chroman-4-yl]-2-hydroxy-6,6-dimethylmorpholin-3-one | O1CC[C@@H](C2=CC=CC=C12)N1C(C(OC(C1)(C)C)O)=O | C15H19NO4
reactant | triphenylphosphonium bromide | [Br-].C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | 3-fluoro-4-(4-methyl-1H-imidazol-1-yl)benzaldehyde | FC=1C=C(C=O)C=CC1N1C=NC(=C1)C | C11H9FN2O
product | (Z)-4-[(S)-chroman-4-yl]-2-[1-[3-fluoro-4-(4-methyl-1H-imidazol-1-yl)phenyl]methylidene]-6,6-dimethylmorpholin-3-one | 25.4 mg | O1CC[C@@H](C2=CC=CC=C12)N1C(/C(/OC(C1)(C)C)=C/C1=CC(=C(C=C1)N1C=NC(=C1)C)F)=O | C26H26FN3O3
